US09193720B2
A mixture of (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-(4-fluoro-3-methylphenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate (0.035 g, 0.058 mmol) and LiOH (0.014 g, 0.579 mmol) in 9:1 EtOH/H2O (2 mL) was refluxed for 3 h. Then, cooled and purified by prep-HPLC to afford (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-(4-fluoro-3-methylphenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetic acid (0.0298 g, 0.052 mmol, 89% yield) as white solid. 1H NMR (500 MHz, CDCl3) δ 7.12-7.17 (m, 2H), 7.04-7.12 (m, 2H), 6.95-7.01 (m, 3H), 5.96 (br. s., 1H), 4.16-4.28 (m, 2H), 3.60 (br. s., 1H), 3.09 (t, J=7.0 Hz, 2H), 2.80-3.01 (m, 1H), 2.66 (s, 3H), 2.30 (d, J=1.7 Hz, 3H), 2.19-2.32 (m, 1H), 2.22 (s, 3H), 1.97-2.15 (m, 1H), 1.25 (s, 9H), 0.87 (br. s., 3H), 0.68 (br. s., 3H). 4H of piperidine were not resolved. LCMS (M+H)=577.3.

reactant | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-(4-fluoro-3-methylphenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.058 mmol, 0.035 g | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCCC1=CC(=C(C=C1)F)C)C)C | C37H49FN2O4
reactant | LiOH | 0.579 mmol, 0.014 g | [Li+].[OH-]
solvent | EtOH H2O | 2 mL | CCO.O
product | (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-(4-fluoro-3-methylphenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetic acid | 0.052 mmol, 0.0298 g, 89% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCCC1=CC(=C(C=C1)F)C)C)C | C35H45FN2O4
